US06784137B2
A mixture of 4,5,6-trichloropyridine-2-carbaldehyde (1.66 g, 8 mmol), tosylmethyl isocyanide (1.54 g, 8 mmol) and potassium carbonate (1.09 g, 8 mmol) in methanol (20 mL) was heated at 50° C. for 30 min and then heated at 80° C. for 5 min. The solvent was removed by rotary evaporation and the residue was suspended in water (200 mL) and stirred vigorously. The precipitate was collected by suction filtration, washed with water and air-dried to provide of 2,3,4-trichloro-6-(5-oxazolyl)pyridine (1.7 g, 6.8 mmol), mp 128-130° C.

reactant | 4,5,6-trichloropyridine-2-carbaldehyde | 8 mmol, 1.66 g | ClC1=CC(=NC(=C1Cl)Cl)C=O | C6H2Cl3NO
reactant | tosylmethyl isocyanide | 8 mmol, 1.54 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 8 mmol, 1.09 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 2,3,4-trichloro-6-(5-oxazolyl)pyridine | 6.8 mmol, 1.7 g | ClC1=NC(=CC(=C1Cl)Cl)C1=CN=CO1 | C8H3Cl3N2O
